US04698430
N,N-Dimethyl-6-(2-nitrophenyl)-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine monohydrochloride
Following the procedure of Example 51, N-[2-[[3-(dimethylamino)propyl]phenylamino]-3-pyridinyl]-2-nitrobenzamide was cyclized to the free base of title compound with phosphorus oxychloride and thereafter converted to the hydrochloride by reacting with ethereal hydrogen chloride. Recrystallization from isopropyl alcohol, the yellow solid melted at 239°240° C.

reactant | N-[2-[[3-(dimethylamino)propyl]phenylamino]-3-pyridinyl]-2-nitrobenzamide | CN(CCCN(C1=NC=CC=C1NC(C1=C(C=CC=C1)[N+](=O)[O-])=O)C1=CC=CC=C1)C | C23H25N5O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N,N-Dimethyl-6-(2-nitrophenyl)-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine monohydrochloride | Cl.CN(CCCN1C2=C(N=C(C3=C1C=CC=C3)C3=C(C=CC=C3)[N+](=O)[O-])C=CC=N2)C | InChI=1S/C23H23N5O2.ClH/c1-26(2)15-8-16-27-20-12-5-3-9-17(20)22(25-19-11-7-14-24-23(19)27)18-10-4-6-13-21(18)28(29)30;/h3-7,9-14H,8,15-16H2,1-2H3;1H
